US04535186
1-[1-(4-methoxyphenyl)-2-(methylamino)ethyl]cyclohexanol
By replacing 1-[α-(aminomethyl)benzyl]cyclohexanol with a molar equivalent amount of 1-[2-amino-1-(p-methoxyphenyl)ethyl]cyclohexanol in Example 7, 1-[1-(4-methoxyphenyl)-2-methylamino)ethyl]cyclohexanol hydrochloride (m.p. 164°-166° C.) was obtained.

reactant | 1-[α-(aminomethyl)benzyl]cyclohexanol | NCC(C1=CC=CC=C1)C1(CCCCC1)O | C14H21NO
reactant | 1-[2-amino-1-(p-methoxyphenyl)ethyl]cyclohexanol | NCC(C1=CC=C(C=C1)OC)C1(CCCCC1)O | C15H23NO2
reactant | cyclohexanol hydrochloride | Cl.C1(CCCCC1)O
product | 1-[1-(4-methoxyphenyl)-2-(methylamino)ethyl]cyclohexanol | COC1=CC=C(C=C1)C(CNC)C1(CCCCC1)O | C16H25NO2
